US04677155
30 g (0.12 mol) of 2-anthraquinonecarboxylic acid are suspended in 100 ml of thionyl chloride at 0° C., with exclusion of moisture. After 2 ml of N,N-dimethylformamide (DMF) have been added, the mixture is heated slowly to the reflux temperature. A clear solution is formed. Excess thionyl chloride is removed by distillation in vacuo, and the residue is recrystallised from toluene. 27 g of 2-anthraquinonecarboxylic acid chloride are obtained. A mixture of 17 g (0.15 mol) of hydroxyethyl methacrylate, 30 ml (0.2 mol) of triethylamine and 50 ml of methylene chloride is added dropwise to a solution of 27 g (0.1 mol) of 2-anthraquinonecarboxylic acid chloride in 200 ml of methylene chloride such that the temperature of the reaction mixture does not exceed 10° C. Acidified ice-water is then added and the organic phase is washed several times with water and sodium bicarbonate solution and dried over sodium sulfate. After the methylene chloride has been stripped off and the residue has been recrystallised from ethanol, the hydroxyethyl methacrylate of 2-anthraquinonecarboxylic acid is obtained in a yield of 72% of theory, melting point: 119°-120° C.

reactant | 2-anthraquinonecarboxylic acid | 0.12 mol, 30 g | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H8O4
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-anthraquinonecarboxylic acid chloride | 27 g | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)Cl | C15H7ClO3
